US07601722B2
1-(tert-butylamino)-4-(2,2-dioxido-3-phenyl-2,1,3-benzothiadiazol-1(3H)-yl)butan-2-ol (115 mg, 0.295 mmol) and di-tert-butyl dicarbonate (71 mg, 0.325 mmol) were stirred in dichloromethane (5 mL) in a sealed vial at room temperature for 18 hr. The reaction mixture was concentrated then loaded directly onto silica gel and purified via Isco chromatography (Redisep, silica, gradient 0-50% ethyl acetate in hexane to afford 0.02 g of 1-(tert-butylamino)-4-(2,2-dioxido-3-phenyl-2,1,3-benzothiadiazol-1(3H)-yl)butan-2-ol-carbamic acid tert-butyl ester as a clear oil.

reactant | 1-(tert-butylamino)-4-(2,2-dioxido-3-phenyl-2,1,3-benzothiadiazol-1(3H)-yl)butan-2-ol | 0.295 mmol, 115 mg | C(C)(C)(C)NCC(CCN1S(N(C2=C1C=CC=C2)C2=CC=CC=C2)(=O)=O)O | C20H27N3O3S
reactant | di-tert-butyl dicarbonate | 0.325 mmol, 71 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-(tert-butylamino)-4-(2,2-dioxido-3-phenyl-2,1,3-benzothiadiazol-1(3H)-yl)butan-2-ol carbamic acid tert-butyl ester | 0.02 g | C(C)(C)(C)NCC(CCN1S(N(C2=C1C=CC=C2)C2=CC=CC=C2)(=O)=O)O.C(C)(C)(C)OC(N)=O | InChI=1S/C20H27N3O3S.C5H11NO2/c1-20(2,3)21-15-17(24)13-14-22-18-11-7-8-12-19(18)23(27(22,25)26)16-9-5-4-6-10-16;1-5(2,3)8-4(6)7/h4-12,17,21,24H,13-15H2,1-3H3;1-3H3,(H2,6,7)
